US05236952
0.8 g of 3-cyano-2-fluoro-6-methoxyphenyl acetate are introduce din three portions at -15° into 5 ml of 96 percent nitric acid, whereupon the mixture is stirred at -10° for 1 hour. Thereupon, the reaction mixture is poured on to 50 g of ice. The mixture is extracted twice with 70 ml of ethyl acetate each time. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated. The thus-obtained residue is dissolved in 50 ml of 1N sodium carbonate solution and 50 ml of methanol, whereupon the solution is stirred at 23° for 1 hour and the methanol is distilled off. The residal aqueous phase is adjusted to pH 2 at 0° with conc. hydrochloric acid and extracted twice with 100 ml of ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated, and the residue is chromatographed on 45 g of silica gel with methylene chloride/methanol (97:3). After recrystallization from ether/hexane there is obtained 2-fluoro-3-hydroxy-5-nitro-p-anisonitrile of m.p. 112°-113°.

reactant | 3-cyano-2-fluoro-6-methoxyphenyl acetate | 0.8 g | C(C)(=O)OC1=C(C(=CC=C1OC)C#N)F | C10H8FNO3
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
product | 2-fluoro-3-hydroxy-5-nitro-p-anisonitrile | FC1=C(C#N)C=C(C(=C1O)OC)[N+](=O)[O-] | C8H5FN2O4
